US09359329B2
To a suspension of 1 g (6.35 mmol) of 6-chloropyridine-3-carboxylic acid in 10 mL of refluxing toluene are added dropwise 7.6 mL (31.75 mmol) of 1,1-di-tert-butoxy-N,N-dimethylmethanamine, and the reaction medium is then refluxed for 30 minutes. After cooling to room temperature, the reaction medium is taken up in 200 mL of EtOAc, washed successively with water (2×100 mL), with saturated NaHCO3 solution (100 mL) and brine (100 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. 1.16 g of tert-butyl 6-chloropyridine-3-carboxylate are obtained in the form of a yellow oil, which is used without further purification in the following step.

reactant | 6-chloropyridine-3-carboxylic acid | 6.35 mmol, 1 g | ClC1=CC=C(C=N1)C(=O)O | C6H4ClNO2
reactant | 1,1-di-tert-butoxy-N,N-dimethylmethanamine | 31.75 mmol, 7.6 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 6-chloropyridine-3-carboxylate | 1.16 g, Yield=86% | ClC1=CC=C(C=N1)C(=O)OC(C)(C)C | C10H12ClNO2
